US04021461
Sodium methoxide (1.2 g. of sodium and 30 ml. of methanol) is added slowly to a mixture of 5 g. of dihydrocitronellal and 10 g. of diethyl 3-methoxycarbonyl-2-methylprop-2-enyl phosphonate (about 77% trans) in 50 ml. of dimethylformamide, under nitrogen and at about 0°, with stirring. After addition is complete, the reaction is left three hours at room temperature and then worked up by extraction with hexane/ether to yield cis/trans methyl 3,7,11-trimethyldodeca-2,4-dienoate, mostly the trans,trans isomer.

reactant | Sodium methoxide | 30 ml, 1.2 g | C[O-].[Na+]
reactant | dihydrocitronellal | CC(C)CCCC(C)CC=O | C10H20O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | trans methyl 3,7,11-trimethyldodeca-2,4-dienoate | CC(=CC(=O)OC)\C=C\CC(CCCC(C)C)C | C16H28O2
